V:Vds nd gnd V=$Vds
V:Vgs ng gnd V=$Vgs
JFET:DUT gnd ng nd @NFET beta=0.001
.dc
  .sweep param="Vgs" type="lin" start=-1.5 stop=0 points=5
  .sweep param="Vds" type="lin" start=0 stop=3 points=100
